US07026326B2
Step B: 3-Hydroxy-N-methyl-2-naphthalen-2-yl-3-pyridin-4-yl-acrylamide
N-Methyl-2-naphthalen-2-yl-acetamide (94 g, 470 mmol) and 71.3 g (71 ml) of ethyl isonicotinate (470 mmol) were partially dissolved in 800 mL of anhydrous THF in a 3 L, 3-necked r.b. flask equipped with a mechanical stir, temperature probe, and a 500-mL addition funnel. The flask was cooled to 0–5° C. in an ice-water bath. tBuOK (1M in THF, 470 mL) was added slowly into the heterogeneous mixture. After the addition, the resulting yellow-brown heterogeneous mixture was stirred overnight at RT. The resulting dark solution was cooled to 0–5° C. in an ice-water bath. Distilled water (800 mL) was added. The basic solution was neutralized to pH 7 using 37% HCl. The solvent was removed in vacuum at RT. The resulting solid was filtered off, washed by slurring in water (1 L) and toluene (1 L), respectively. The suspension was then filtered. The solid was dried under vacuum at 50° C. overnight and used crude in the next step.

reactant | N-Methyl-2-naphthalen-2-yl-acetamide | 470 mmol, 94 g | CNC(CC1=CC2=CC=CC=C2C=C1)=O | C13H13NO
reactant | ethyl isonicotinate | 470 mmol, 71 ml, 71.3 g | C(C1=CC=NC=C1)(=O)OCC | C8H9NO2
reactant | tBuOK | 1M, 470 mL | C(C)(C)(C)O[K]
reactant | HCl | Cl | ClH
solvent | THF | 800 mL | C1CCOC1 | C4H8O
solvent | water | 800 mL | O | H2O
product | 3-Hydroxy-N-methyl-2-naphthalen-2-yl-3-pyridin-4-yl-acrylamide | OC(=C(C(=O)NC)C1=CC2=CC=CC=C2C=C1)C1=CC=NC=C1 | C19H16N2O2
